US07074817B2
1-[4-(tert-Butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indole was prepared by coupling 1-[4-(tert-Butyl)benzyl]-5-bromo-1H-indole (5.34 g, 15.6 mmol), and 4-trifluoromethoxyphenyl boronic acid (3.86 g, 18.7 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.453 g, 0.555 mmol), and potassium carbonate (3.22 g, 23.3 mmol) in dioxane (120 mL) and water (11.8 mL) following the procedure described in Step 1 of Example 11. Purification by flash chromatography (Biotage apparatus) using hexane as the mobile phase yielded a dark yellow gum that solidified upon standing to a light yellow solid (2.53 g, 38%). 1HNMR (300 MHz, DMSO-d6): δ 7.95 (s, 1H), 7.75 (d, 2H, J=7.7 Hz), 7.55-7.6 (m, 2H), 7.45 (d, 3H, J=7.7 Hz), 7.35 (d, 2H, J=7.7 Hz), 7.15 (d, 2H, J=7.7 Hz), 6.45 (d, 1H, J=3.9 Hz), 5.4 (s, 2H), and 1.2 ppm (s, 9H).

reactant | 1-[4-(tert-Butyl)benzyl]-5-bromo-1H-indole | 15.6 mmol, 5.34 g | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)Br)C=C1 | C19H20BrN
reactant | 4-trifluoromethoxyphenyl boronic acid | 18.7 mmol, 3.86 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | dichloromethane | 0.555 mmol, 0.453 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 23.3 mmol, 3.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | water | 11.8 mL | O | H2O
product | 1-[4-(tert-Butyl)benzyl]-5-[4-(trifluoromethoxy)phenyl]-1H-indole | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C26H24F3NO
